US08957070B2
5-Methoxy-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide
To a mixture of 2-(tritylthio)ethylamine hydrochloride (0.32 g), triethylamine (0.126 mL) and N,N-dimethylformamide (10 mL) were added 5-methoxy-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (265 mg), 1H-1,2,3-benzotriazol-1-ol (0.15 g) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (188 mg) under ice-cooling, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained oil was crystallized from dichloromethane-hexane to give the title compound (465 mg, yield 95%) as pale-yellow crystals. melting point 128-129° C.

reactant | 2-(tritylthio)ethylamine hydrochloride | 0.32 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
reactant | 5-methoxy-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 265 mg | COC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C=1SC=CC1)C(=O)O | C14H12N2O5S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.15 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 188 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.126 mL | C(C)N(CC)CC | C6H15N
product | 5-Methoxy-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 465 mg, yield 95% | COC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C=1SC=CC1)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O4S3
